US07786114B2
The product is prepared by following the procedure described in example 34 stage (k), starting with 0.160 g of tert-butyl 4-{[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amino}piperidine-1-carboxylate instead of the cyclopropyl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amine used in example 34 stage (k) and 0.95 cm3 of 5N potassium hydroxide. 0.104 g of tert-butyl 4-{[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amino}piperidine-1-carboxylate is obtained with the following characteristics:

reactant | tert-butyl 4-{[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amino}piperidine-1-carboxylate | 0.160 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNC1CCN(CC1)C(=O)OC(C)(C)C)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C35H42N6O6S
reactant | potassium hydroxide | 5N, 0.95 cm3 | [OH-].[K+]
product | tert-butyl 4-{[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amino}piperidine-1-carboxylate | 0.104 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNC1CCN(CC1)C(=O)OC(C)(C)C)N2)OC | C28H36N6O4
